US07989462B2
N-{4-[Methyl(2-methylquinazolin-4-yl)amino]phenyl}formamide
To a solution of formic acid 1 mL and acetic anhydride 1 mL, stirred at room temperature for 1 h, was added a solution of N-methyl-N-(2-methylquinazolin-4-yl)benzene-1,4-diamine 0.132 g (0.5 mmol) in CH2Cl2 5 mL dropwise at 0° C. The reaction mixture was stirred at room temperature for 16 h. After concentration, the crude product was purified by recrystallization in EtOAc/MeOH to give the titled compound in 85% yield. The compound was further purified with preparative HPLC for analytical uses. 1H NMR (CD3OD, 400 MHz): δ 7.84-7.79 (m, 2H), 7.71-7.65 (m, 1H), 7.44-7.41 (m, 1H), 7.27-7.28 (m, 2H), 7.02-6.99 (m, 2H), [3.84 (s, 1H), 3.81 (s, 2H)], [2.78 (s, 1H), 2.76 (s, 2H)] (Two isomers were observed in 2:1 ratio.). m/e: 293.1438 (M+1).

reactant | formic acid | 1 mL | C(=O)O | CH2O2
reactant | acetic anhydride | 1 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | N-methyl-N-(2-methylquinazolin-4-yl)benzene-1,4-diamine | 0.5 mmol, 0.132 g | CN(C1=CC=C(C=C1)N)C1=NC(=NC2=CC=CC=C12)C | C16H16N4
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N-{4-[Methyl(2-methylquinazolin-4-yl)amino]phenyl}formamide | 85% yield | CN(C1=CC=C(C=C1)NC=O)C1=NC(=NC2=CC=CC=C12)C | C17H16N4O
